US08304434B2
Step 2: tert-butyl 4-acetylpiperidine-1-carboxylate
To a 500 ml round bottom flask was added tert-butyl-4-{[methoxy(methyl)amino]carbonyl}piperidine-1-carboxylate (29 g, 106 mmol) and 150 ml tetrahydrofuran. The resulting solution was cooled with ice bath and methylmagnesium chloride tetrahydrofuran solution (42.6 ml, 3M, 128 mmol) was added by a syringe. The mixture was stirred at 0° C. for 30 minutes. It was diluted with 200 ml of ether and the resulting mixture was washed twice with 150 ml saturated ammonium chloride solution. The organics were dried over sodium sulfate, filtered and concentrated. The crude product was used for next step without further purification.

reactant | tert-butyl-4-{[methoxy(methyl)amino]carbonyl}piperidine-1-carboxylate | 106 mmol, 29 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N(C)OC | C13H24N2O4
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | methylmagnesium chloride tetrahydrofuran | 128 mmol, 3M, 42.6 ml | O1CCCC1.C[Mg]Cl
solvent | ether | 200 ml | CCOCC | C4H10O
product | tert-butyl 4-acetylpiperidine-1-carboxylate | C(C)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO3
